US06069145
5-Benzyloxycarbonylamino-2-(4-{2-methoxyethyl}-3-oxopiperazin-1-yl)fluorobenzene (3.2 g) was dissolved in dry THF (100 ml) under argon, cooled to -78° C., and treated with a solution of n-butyllithium (1.6 M in hexane, 5.5 ml), keeping the temperature below -60° C. 1,3-Dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone (DMPU, 10 ml) was added to the resulting mixture to facilitate stirring and (R)-glycidylbutyrate (0.93 ml) was added. The mixture was stirred at -78° C. for 30 minutes, before allowing the temperature to rise to ambient over 16 hours. Sodium bicarbonate solution (50 ml) was added, and the whole evaporated to dryness. Organic materials were dissolved from the residue using dichloromethane, and purified by chromatography on silica using as eluant a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give (5R)-3-(3-fluoro-4-{4-(2-methoxyethyl)-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one (1.14 g).

reactant | 5-Benzyloxycarbonylamino-2-(4-{2-methoxyethyl}-3-oxopiperazin-1-yl)fluorobenzene | 3.2 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C1)F)N1CC(N(CC1)CCOC)=O | C21H24FN3O4
reactant | n-butyllithium | 1.6 M, 5.5 ml | C(CCC)[Li]
reactant | (R)-glycidylbutyrate | 0.93 ml | C([C@H]1CO1)OC(CCC)=O | C7H12O3
reactant | Sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | 1,3-Dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 10 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | (5R)-3-(3-fluoro-4-{4-(2-methoxyethyl)-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one | 1.14 g | FC=1C=C(C=CC1N1CC(N(CC1)CCOC)=O)N1C(O[C@H](C1)CO)=O | C17H22FN3O5
